US07368453B2
Step 3. Synthesis of 1,1-Dimethylethyl(2S,3S)-2-(hydroxymethyl)-3-methyl-1-pyrrolidinecarboxylate
Lithium borohydride (6.6 mmol, 3.31 mL of a 2M in THF solution) was added dropwise to an ice cold THF solution of 1-(1,1-dimethylethyl) 2-ethyl(2S,3S)-3-methyl-1,2-pyrrolidinedicarboxylate (850 mg, 3.3 mmol) and methanol (0.133 mL, 3.3 mmol). The reaction was warmed to room temperature and then stirred for 4 hours. The reaction was quenched with i-propanol then with saturated NaHCO3. The reaction mixture was extracted 3× with ethyl acetate. The organic layers were dried over MgSO4 and concentrated under reduced pressure to give the title compound, which was used without further purification. 1H NMR (400 MHz, DMSO-D6) δ ppm 0.9 (t, J=7.0 Hz, 3 H) 1.3 (m, 9 H) 1.9 (m, 1 H) 2.2 (m, 1 H) 3.1 (m, 2 H) 3.3 (m, 2 H) 3.5 (m, 1 H) 4.7 (m, 1 H).

reactant | Lithium borohydride | [BH4-].[Li+]
reactant | 1-(1,1-dimethylethyl) 2-ethyl(2S,3S)-3-methyl-1,2-pyrrolidinedicarboxylate | 3.3 mmol, 850 mg | C[C@@H]1[C@H](N(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C13H23NO4
reactant | methanol | 3.3 mmol, 0.133 mL | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | 1,1-Dimethylethyl(2S,3S)-2-(hydroxymethyl)-3-methyl-1-pyrrolidinecarboxylate | OC[C@H]1N(CC[C@@H]1C)C(=O)OC(C)(C)C | C11H21NO3
